US07737145B2
In a similar manner as described above in Paragraph A, a solution of 1,1-dimethylethyl 4-oxo-1-piperidinecarboxylate (1 g, 4.5 mmol) and 4-(4-chlorophenoxy)aniline (1 g, 5 mmol) in dichloromethane was stirred as acetic acid (0.39 g, 6.5 mmol) was added. After 15 minutes, sodium triacetoxyborohydride (2 g, 9.4 mmol) was added and the reaction was stirred for 3 days. The reaction was treated with aqueous sodium bicarbonate. The organic layer was washed with water, dried, and concentrated. Purification by flash chromatography on silica gel using a gradient of ethyl acetate in hexane gave 1.3 g of 1,1-dimethylethyl 4-[[4-(4-chlorophenoxy)phenyl]amino]-1-piperidinecarboxylate.

reactant | 1,1-dimethylethyl 4-oxo-1-piperidinecarboxylate | 4.5 mmol, 1 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | 4-(4-chlorophenoxy)aniline | 5 mmol, 1 g | ClC1=CC=C(OC2=CC=C(N)C=C2)C=C1 | C12H10ClNO
reactant | acetic acid | 6.5 mmol, 0.39 g | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 9.4 mmol, 2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1,1-dimethylethyl 4-[[4-(4-chlorophenoxy)phenyl]amino]-1-piperidinecarboxylate | 1.3 g | ClC1=CC=C(OC2=CC=C(C=C2)NC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C22H27ClN2O3
